US07754737B2
To a solution of (S)-methyl 3-(tert-butoxycarbonylamino)-4-hydroxybutanoate (7.0 g, 30.0 mmol) in acetone (90 mL), there was added 2,2-dimethoxypropane (37 mL, 300 mmol) followed by BF3.Et2O (0.11 mL, 0.9 mmol). The resulting solution was stirred at rt overnight. Solvents were removed under vacuum, and the residue was redissolved in ether (100 mL), washed with sat'd NaHCO3 (20 mL). Upon concentrating under vacuum, the residue was purified by flash column chromatography to give (S)-tert-butyl 4-(2-methoxy-2-oxoethyl)-2,2-dimethyloxazolidine-3-carboxylate (7.51 g, 92%). MS m/z 296 (M+Na+).

reactant | (S)-methyl 3-(tert-butoxycarbonylamino)-4-hydroxybutanoate | 30.0 mmol, 7.0 g | C(C)(C)(C)OC(=O)N[C@@H](CC(=O)OC)CO | C10H19NO5
reactant | 2,2-dimethoxypropane | 300 mmol, 37 mL | COC(C)(C)OC | C5H12O2
solvent | acetone | 90 mL | CC(=O)C | C3H6O
catalyst | BF3.Et2O | 0.9 mmol, 0.11 mL | B(F)(F)F.CCOCC
product | (S)-tert-butyl 4-(2-methoxy-2-oxoethyl)-2,2-dimethyloxazolidine-3-carboxylate | 7.51 g, 92% | COC(C[C@@H]1N(C(OC1)(C)C)C(=O)OC(C)(C)C)=O | C13H23NO5
